* DC regulation OP test - 1mA
.title T1b 1mA OP

.param mc_mm_switch = 0
.param MC_MM_SWITCH = 0
.subckt sky130_fd_pr__model__parasitic__res_po r0 r1 sub w=1 l=1
c0 r0 sub {0.1e-15*w*l}
c1 r1 sub {0.1e-15*w*l}
.ends sky130_fd_pr__model__parasitic__res_po
.lib "../sky130.lib.spice" tt

.include ../00_error_amp/design.cir
.include ../01_pass_device/design.cir
.include ../02_feedback_network/design.cir
.include ../03_compensation/design.cir
.include ../04_current_limiter/design.cir
.include ../05_uv_ov_comparators/design.cir
.include ../06_level_shifter/design.cir
.include ../07_zener_clamp/design.cir
.include ../08_mode_control/design.cir
.include ../09_startup/design.cir
.include design.cir

Vbvdd bvdd 0 7
Vavbg avbg 0 1.226
Iibias 0 ibias 1u
Vsvdd svdd 0 2.2
Ven en 0 2.2
Ven_ret en_ret 0 0
Rload pvdd 0 5k

XDUT bvdd pvdd 0 avbg ibias svdd en en_ret uv_flag ov_flag pvdd_regulator

.option gmin=1e-10 method=gear reltol=1e-3 abstol=1e-10 vntol=1e-4
* Set all key internal nodes to guide convergence
.nodeset V(pvdd)=5.0 V(xdut.gate)=6.1 V(xdut.vfb)=1.226 V(xdut.vref_ss)=1.226
+ V(xdut.ea_out)=6.1 V(bvdd)=7.0 V(svdd)=2.2 V(avbg)=1.226
+ V(xdut.xilim.sense_n)=0.1 V(xdut.xilim.det_n)=7.0
+ V(xdut.xilim.cas_mid)=5.8
.op
.control
op
echo "=== T1b 1mA ==="
echo "pvdd = $&v(pvdd)"
echo "vfb = $&v(xdut.vfb)"
echo "gate = $&v(xdut.gate)"
echo "ea_out = $&v(xdut.ea_out)"
quit
.endc
.end
